US04978660
A mixture of ethyl 3-bromomethyl-5-chloro-2-benzofurancarboxylate (52.75 g, 0.166 mol), methylaminoacetaldehyde dimethyl acetal (19.0 g, 0.167 mol) and potassium carbonate (45 g) in dry acetone (600 ml) was stirred under argon for 30 hours, filtered and the filtrate evaporated. The residue was partitioned between ethyl ether and water and the organic phase was dried with magnesium sulfate, filtered, and concentrated to give ethyl 5-chloro-3-[N-(2,2-dimethoxyethyl)-N-methyl(aminomethyl)]-2-benzofurancarboxylate: mp 58°-60° C.

reactant | ethyl 3-bromomethyl-5-chloro-2-benzofurancarboxylate | 0.166 mol, 52.75 g | BrCC1=C(OC2=C1C=C(C=C2)Cl)C(=O)OCC | C12H10BrClO3
reactant | methylaminoacetaldehyde dimethyl acetal | 0.167 mol, 19.0 g | COC(CNC)OC | C5H13NO2
reactant | potassium carbonate | 45 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | ethyl 5-chloro-3-[N-(2,2-dimethoxyethyl)-N-methyl(aminomethyl)]-2-benzofurancarboxylate | ClC=1C=CC2=C(C(=C(O2)C(=O)OCC)CN(C)CC(OC)OC)C1 | C17H22ClNO5
